US05332739
Synthesis of 1,3-dimethyl-6-[4-(N-benzoyl-2-aminoethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 93):
In 20 ml of dioxane were suspended 2.76 g of N-(2-chloroethyl)benzamide, 1.12 g of 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione, 3.75 g of sodium iodide and 1.4 ml of triethylamine, and the solution was heated under reflux with stirring for 15 hours. Afterward, the solvent was distilled off, and the resultant residue was dissolved in chloroform, washed with water, and then concentrated to dryness. The residue was purified through a silica gel column chromatograph (chloroform/methanol=100/1 to 100/5 in volume ratio), thereby obtaining 1.25 g of the crystals of 1,3-dimethyl-6-[4-(N-benzoyl-2-aminoethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | N-(2-chloroethyl)benzamide | 2.76 g | ClCCNC(C1=CC=CC=C1)=O | C9H10ClNO
reactant | 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione | 1.12 g | CN1C(N(C(C=C1N1CCNCC1)=O)C)=O | C10H16N4O2
reactant | sodium iodide | 3.75 g | [I-].[Na+]
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-6-[4-(N-benzoyl-2-aminoethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 1.25 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCNC(C1=CC=CC=C1)=O)=O)C)=O | InChI=1S/C19H25N5O3.ClH/c1-21-16(14-17(25)22(2)19(21)27)24-12-10-23(11-13-24)9-8-20-18(26)15-6-4-3-5-7-15;/h3-7,14H,8-13H2,1-2H3,(H,20,26);1H
